US05861417
2.2.3 Synthesis of (3-(3,4-dichlorophenyl)-5-oxopyrrolidin-3-yl)acetic acid ethyl ester
Combine Raney nickel (24 lb) and an aqueous concentrated ammonia solution (19 lb). Add a solution of 3-cyano-3-(3,4-dichlorophenyl)pentanedioic acid diethyl ester (15 lb) and ethanol (117 lb) in a pressure reactor. Hydrogenate at 200 psi and 35° C. After 20 hours, cool, vent the vessel, purge with nitrogen, and filter. Rinse the solids with ethanol. Evaporate the filtrate invacuo to give a residue. Crystallize the residue by dissolving in ethyl acetate and triturate the solution with heptane to give a solid. Collect the solid to give the title compound. Elemental Analysis calculated for C14H15Cl2NO3 : C 53.18; H 4.78; N 4.43; Found: C 53.113; H 4.72; N 4.46.

reactant | ammonia | 19 lb | N | H3N
reactant | 3-cyano-3-(3,4-dichlorophenyl)pentanedioic acid diethyl ester | 15 lb | C(C)OC(CC(CC(=O)OCC)(C1=CC(=C(C=C1)Cl)Cl)C#N)=O | C16H17Cl2NO4
catalyst | Raney nickel | 24 lb | [Ni] | Ni
solvent | ethanol | 117 lb | C(C)O | C2H6O
product | (3-(3,4-dichlorophenyl)-5-oxopyrrolidin-3-yl)acetic acid ethyl ester | C(C)OC(CC1(CNC(C1)=O)C1=CC(=C(C=C1)Cl)Cl)=O | C14H15Cl2NO3
